US09376422B2
Step 3: Synthesis of 4-({1-[(tert-butoxy)carbonyl]piperidin-4-yl}(methyl)amino)-3,6-dichloropyridine-2-carboxylic acid
To a stirred solution of methyl 4-({1-[(tert-butoxy)carbonyl]piperidin-4-yl}(methyl)amino)-3,6-dichloropyridine-2-carboxylate (95 mg, 0.23 mmol) in THF (5 ml) was added 2M aqueous NaOH (2.3 ml, 4.54 mmol) and the reaction mixture was left to stir at room temperature for 16 h after which time the THF was evaporated in vacuo. The aqueous phase was then treated with an aqueous 10% citric acid solution to pH 5-6 and then extracted with EtOAc (3×50 ml), the combined organic phases were then dried with Na2SO4 and evaporated to give the title compound as a white powder (77 mg, 84%). LC-MS 100%, 2.02 min (3.5 minute LC-MS method), m/z=403.9/405.6, 1H NMR (500 MHz, Methanol-d4) δ 7.09 (s, 1H) 4.14-4.22 (m, 2H) 3.80-3.89 (m, 1H) 2.84 (s, 5H) 1.74-1.81 (m, 4H) 1.46 (s, 9H).

reactant | methyl 4-({1-[(tert-butoxy)carbonyl]piperidin-4-yl}(methyl)amino)-3,6-dichloropyridine-2-carboxylate | 0.23 mmol, 95 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C1=C(C(=NC(=C1)Cl)C(=O)OC)Cl)C | C18H25Cl2N3O4
reactant | NaOH | 4.54 mmol, 2M, 2.3 ml | [OH-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-({1-[(tert-butoxy)carbonyl]piperidin-4-yl}(methyl)amino)-3,6-dichloropyridine-2-carboxylic acid | 77 mg, 84% | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C1=C(C(=NC(=C1)Cl)C(=O)O)Cl)C | C17H23Cl2N3O4
